.title kicad schematic

xsc3 net-_sc1-pad1_ net-_sc3-pad2_ net-_sc3-pad3_ sky130_stdcells__nor2b_1 
* u24 net-_sc2-pad1_ net-_sc4-pad1_ net-_u5-pad1_ net-_u6-pad3_ net-_u7-pad1_ net-_u8-pad3_ net-_u9-pad1_ net-_u10-pad3_ net-_u11-pad1_ net-_u12-pad3_ net-_sc4-pad2_ net-_sc2-pad2_ net-_u22-pad1_ net-_u14-pad3_ net-_u13-pad1_ net-_u16-pad3_ net-_u15-pad1_ net-_u18-pad3_ net-_u17-pad1_ net-_u20-pad3_ net-_u19-pad1_ net-_sc3-pad3_ port
* u5 net-_u5-pad1_ net-_u4-pad3_ unconnected-_u5-pad3_ net-_sc1-pad2_ net-_u5-pad5_ unconnected-_u5-pad6_ d_dff
* u2 net-_sc4-pad1_ net-_sc1-pad1_ net-_u2-pad3_ d_or
* u4 net-_u3-pad3_ net-_sc4-pad3_ net-_u4-pad3_ d_or
* u1 gnd net-_sc4-pad2_ net-_u1-pad3_ unconnected-_u1-pad4_ net-_sc3-pad2_ unconnected-_u1-pad6_ d_dff
xsc1 net-_sc1-pad1_ net-_sc1-pad2_ net-_sc1-pad3_ sky130_stdcells__nor2b_1 
xsc4 net-_sc4-pad1_ net-_sc4-pad2_ net-_sc4-pad3_ sky130_stdcells__and2b_1 
* u3 net-_sc1-pad1_ net-_sc4-pad1_ net-_u3-pad3_ d_and
xsc2 net-_sc2-pad1_ net-_sc2-pad2_ net-_sc1-pad1_ sky130_stdcells__and2b_1 
* u25 net-_sc1-pad3_ net-_u1-pad3_ d_inverter
* u7 net-_u7-pad1_ net-_u4-pad3_ unconnected-_u7-pad3_ net-_sc1-pad2_ net-_u7-pad5_ unconnected-_u7-pad6_ d_dff
* u9 net-_u9-pad1_ net-_u4-pad3_ unconnected-_u9-pad3_ net-_sc1-pad2_ net-_u9-pad5_ unconnected-_u9-pad6_ d_dff
* u11 net-_u11-pad1_ net-_u4-pad3_ unconnected-_u11-pad3_ net-_sc1-pad2_ net-_u11-pad5_ unconnected-_u11-pad6_ d_dff
* u19 net-_u19-pad1_ net-_u4-pad3_ unconnected-_u19-pad3_ net-_sc1-pad2_ net-_u19-pad5_ unconnected-_u19-pad6_ d_dff
* u20 net-_u19-pad5_ net-_u2-pad3_ net-_u20-pad3_ d_tristate
* u18 net-_u17-pad5_ net-_u2-pad3_ net-_u18-pad3_ d_tristate
* u17 net-_u17-pad1_ net-_u4-pad3_ unconnected-_u17-pad3_ net-_sc1-pad2_ net-_u17-pad5_ unconnected-_u17-pad6_ d_dff
* u23 net-_u21-pad2_ net-_u22-pad2_ net-_sc1-pad2_ d_nand
* u21 net-_u4-pad3_ net-_u21-pad2_ d_inverter
* u22 net-_u22-pad1_ net-_u22-pad2_ d_inverter
* u6 net-_u5-pad5_ net-_u2-pad3_ net-_u6-pad3_ d_tristate
* u8 net-_u7-pad5_ net-_u2-pad3_ net-_u8-pad3_ d_tristate
* u12 net-_u11-pad5_ net-_u2-pad3_ net-_u12-pad3_ d_tristate
* u10 net-_u9-pad5_ net-_u2-pad3_ net-_u10-pad3_ d_tristate
* u16 net-_u15-pad5_ net-_u2-pad3_ net-_u16-pad3_ d_tristate
* u14 net-_u13-pad5_ net-_u2-pad3_ net-_u14-pad3_ d_tristate
* u15 net-_u15-pad1_ net-_u4-pad3_ unconnected-_u15-pad3_ net-_sc1-pad2_ net-_u15-pad5_ unconnected-_u15-pad6_ d_dff
* u13 net-_u13-pad1_ net-_u4-pad3_ unconnected-_u13-pad3_ net-_sc1-pad2_ net-_u13-pad5_ unconnected-_u13-pad6_ d_dff
a1 net-_u5-pad1_ net-_u4-pad3_ unconnected-_u5-pad3_ net-_sc1-pad2_ net-_u5-pad5_ unconnected-_u5-pad6_ u5
a2 [net-_sc4-pad1_ net-_sc1-pad1_ ] net-_u2-pad3_ u2
a3 [net-_u3-pad3_ net-_sc4-pad3_ ] net-_u4-pad3_ u4
a4 gnd net-_sc4-pad2_ net-_u1-pad3_ unconnected-_u1-pad4_ net-_sc3-pad2_ unconnected-_u1-pad6_ u1
a5 [net-_sc1-pad1_ net-_sc4-pad1_ ] net-_u3-pad3_ u3
a6 net-_sc1-pad3_ net-_u1-pad3_ u25
a7 net-_u7-pad1_ net-_u4-pad3_ unconnected-_u7-pad3_ net-_sc1-pad2_ net-_u7-pad5_ unconnected-_u7-pad6_ u7
a8 net-_u9-pad1_ net-_u4-pad3_ unconnected-_u9-pad3_ net-_sc1-pad2_ net-_u9-pad5_ unconnected-_u9-pad6_ u9
a9 net-_u11-pad1_ net-_u4-pad3_ unconnected-_u11-pad3_ net-_sc1-pad2_ net-_u11-pad5_ unconnected-_u11-pad6_ u11
a10 net-_u19-pad1_ net-_u4-pad3_ unconnected-_u19-pad3_ net-_sc1-pad2_ net-_u19-pad5_ unconnected-_u19-pad6_ u19
a11 net-_u19-pad5_ net-_u2-pad3_ net-_u20-pad3_ u20
a12 net-_u17-pad5_ net-_u2-pad3_ net-_u18-pad3_ u18
a13 net-_u17-pad1_ net-_u4-pad3_ unconnected-_u17-pad3_ net-_sc1-pad2_ net-_u17-pad5_ unconnected-_u17-pad6_ u17
a14 [net-_u21-pad2_ net-_u22-pad2_ ] net-_sc1-pad2_ u23
a15 net-_u4-pad3_ net-_u21-pad2_ u21
a16 net-_u22-pad1_ net-_u22-pad2_ u22
a17 net-_u5-pad5_ net-_u2-pad3_ net-_u6-pad3_ u6
a18 net-_u7-pad5_ net-_u2-pad3_ net-_u8-pad3_ u8
a19 net-_u11-pad5_ net-_u2-pad3_ net-_u12-pad3_ u12
a20 net-_u9-pad5_ net-_u2-pad3_ net-_u10-pad3_ u10
a21 net-_u15-pad5_ net-_u2-pad3_ net-_u16-pad3_ u16
a22 net-_u13-pad5_ net-_u2-pad3_ net-_u14-pad3_ u14
a23 net-_u15-pad1_ net-_u4-pad3_ unconnected-_u15-pad3_ net-_sc1-pad2_ net-_u15-pad5_ unconnected-_u15-pad6_ u15
a24 net-_u13-pad1_ net-_u4-pad3_ unconnected-_u13-pad3_ net-_sc1-pad2_ net-_u13-pad5_ unconnected-_u13-pad6_ u13
* Schematic Name:                             d_dff, Ngspice Name: d_dff
.model u5 d_dff(clk_delay=1.0e-9 set_delay=1.0e-9 reset_delay=1.0 ic=0 data_load=1.0e-12 clk_load=1.0e-12 set_load=1.0e-12 reset_load=1.0e-12 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             d_or, Ngspice Name: d_or
.model u2 d_or(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_or, Ngspice Name: d_or
.model u4 d_or(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_dff, Ngspice Name: d_dff
.model u1 d_dff(clk_delay=1.0e-9 set_delay=1.0e-9 reset_delay=1.0 ic=0 data_load=1.0e-12 clk_load=1.0e-12 set_load=1.0e-12 reset_load=1.0e-12 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u3 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u25 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_dff, Ngspice Name: d_dff
.model u7 d_dff(clk_delay=1.0e-9 set_delay=1.0e-9 reset_delay=1.0 ic=0 data_load=1.0e-12 clk_load=1.0e-12 set_load=1.0e-12 reset_load=1.0e-12 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             d_dff, Ngspice Name: d_dff
.model u9 d_dff(clk_delay=1.0e-9 set_delay=1.0e-9 reset_delay=1.0 ic=0 data_load=1.0e-12 clk_load=1.0e-12 set_load=1.0e-12 reset_load=1.0e-12 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             d_dff, Ngspice Name: d_dff
.model u11 d_dff(clk_delay=1.0e-9 set_delay=1.0e-9 reset_delay=1.0 ic=0 data_load=1.0e-12 clk_load=1.0e-12 set_load=1.0e-12 reset_load=1.0e-12 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             d_dff, Ngspice Name: d_dff
.model u19 d_dff(clk_delay=1.0e-9 set_delay=1.0e-9 reset_delay=1.0 ic=0 data_load=1.0e-12 clk_load=1.0e-12 set_load=1.0e-12 reset_load=1.0e-12 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             d_tristate, Ngspice Name: d_tristate
.model u20 d_tristate(delay=1.0e-9 input_load=1.0e-12 enable_load=1.0e-12 ) 
* Schematic Name:                             d_tristate, Ngspice Name: d_tristate
.model u18 d_tristate(delay=1.0e-9 input_load=1.0e-12 enable_load=1.0e-12 ) 
* Schematic Name:                             d_dff, Ngspice Name: d_dff
.model u17 d_dff(clk_delay=1.0e-9 set_delay=1.0e-9 reset_delay=1.0 ic=0 data_load=1.0e-12 clk_load=1.0e-12 set_load=1.0e-12 reset_load=1.0e-12 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             d_nand, Ngspice Name: d_nand
.model u23 d_nand(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u21 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u22 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_tristate, Ngspice Name: d_tristate
.model u6 d_tristate(delay=1.0e-9 input_load=1.0e-12 enable_load=1.0e-12 ) 
* Schematic Name:                             d_tristate, Ngspice Name: d_tristate
.model u8 d_tristate(delay=1.0e-9 input_load=1.0e-12 enable_load=1.0e-12 ) 
* Schematic Name:                             d_tristate, Ngspice Name: d_tristate
.model u12 d_tristate(delay=1.0e-9 input_load=1.0e-12 enable_load=1.0e-12 ) 
* Schematic Name:                             d_tristate, Ngspice Name: d_tristate
.model u10 d_tristate(delay=1.0e-9 input_load=1.0e-12 enable_load=1.0e-12 ) 
* Schematic Name:                             d_tristate, Ngspice Name: d_tristate
.model u16 d_tristate(delay=1.0e-9 input_load=1.0e-12 enable_load=1.0e-12 ) 
* Schematic Name:                             d_tristate, Ngspice Name: d_tristate
.model u14 d_tristate(delay=1.0e-9 input_load=1.0e-12 enable_load=1.0e-12 ) 
* Schematic Name:                             d_dff, Ngspice Name: d_dff
.model u15 d_dff(clk_delay=1.0e-9 set_delay=1.0e-9 reset_delay=1.0 ic=0 data_load=1.0e-12 clk_load=1.0e-12 set_load=1.0e-12 reset_load=1.0e-12 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             d_dff, Ngspice Name: d_dff
.model u13 d_dff(clk_delay=1.0e-9 set_delay=1.0e-9 reset_delay=1.0 ic=0 data_load=1.0e-12 clk_load=1.0e-12 set_load=1.0e-12 reset_load=1.0e-12 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
.tran 0e-00 0e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
.endc
.end
