* c:\users\hp\onedrive\documents\fossee\esim\library\subcircuitlibrary\8282\8282.cir

* u2  /a0 /stb ? ? ? net-_u2-pad6_ d_dff
* u3  /a1 /stb ? ? ? net-_u3-pad6_ d_dff
* u16  /a4 /stb ? ? ? net-_u16-pad6_ d_dff
* u17  /a5 /stb ? ? ? net-_u17-pad6_ d_dff
* u4  /a2 /stb ? ? ? net-_u4-pad6_ d_dff
* u5  /a3 /stb ? ? ? net-_u5-pad6_ d_dff
* u18  /a6 /stb ? ? ? net-_u18-pad6_ d_dff
* u15  /a7 /stb ? ? ? net-_u15-pad6_ d_dff
* u6  net-_u2-pad6_ net-_u10-pad1_ d_inverter
* u10  net-_u10-pad1_ net-_u10-pad2_ /b0 d_tristate
* u7  net-_u3-pad6_ net-_u11-pad1_ d_inverter
* u11  net-_u11-pad1_ net-_u10-pad2_ /b1 d_tristate
* u8  net-_u4-pad6_ net-_u12-pad1_ d_inverter
* u12  net-_u12-pad1_ net-_u10-pad2_ /b2 d_tristate
* u9  net-_u5-pad6_ net-_u13-pad1_ d_inverter
* u13  net-_u13-pad1_ net-_u10-pad2_ /b3 d_tristate
* u19  net-_u16-pad6_ net-_u19-pad2_ d_inverter
* u23  net-_u19-pad2_ net-_u10-pad2_ /b4 d_tristate
* u20  net-_u17-pad6_ net-_u20-pad2_ d_inverter
* u24  net-_u20-pad2_ net-_u10-pad2_ /b5 d_tristate
* u21  net-_u18-pad6_ net-_u21-pad2_ d_inverter
* u25  net-_u21-pad2_ net-_u10-pad2_ /b6 d_tristate
* u22  net-_u15-pad6_ net-_u22-pad2_ d_inverter
* u26  net-_u22-pad2_ net-_u10-pad2_ /b7 d_tristate
* u1  /a3 /a0 /a1 /a2 /stb /oe_bar /b0 /b1 /b2 /b3 /a4 /a5 /a6 /a7 /b4 /b5 /b6 /b7 ? ? port
* u14  /oe_bar net-_u10-pad2_ d_inverter
a1 /a0 /stb ? ? ? net-_u2-pad6_ u2
a2 /a1 /stb ? ? ? net-_u3-pad6_ u3
a3 /a4 /stb ? ? ? net-_u16-pad6_ u16
a4 /a5 /stb ? ? ? net-_u17-pad6_ u17
a5 /a2 /stb ? ? ? net-_u4-pad6_ u4
a6 /a3 /stb ? ? ? net-_u5-pad6_ u5
a7 /a6 /stb ? ? ? net-_u18-pad6_ u18
a8 /a7 /stb ? ? ? net-_u15-pad6_ u15
a9 net-_u2-pad6_ net-_u10-pad1_ u6
a10 net-_u10-pad1_ net-_u10-pad2_ /b0 u10
a11 net-_u3-pad6_ net-_u11-pad1_ u7
a12 net-_u11-pad1_ net-_u10-pad2_ /b1 u11
a13 net-_u4-pad6_ net-_u12-pad1_ u8
a14 net-_u12-pad1_ net-_u10-pad2_ /b2 u12
a15 net-_u5-pad6_ net-_u13-pad1_ u9
a16 net-_u13-pad1_ net-_u10-pad2_ /b3 u13
a17 net-_u16-pad6_ net-_u19-pad2_ u19
a18 net-_u19-pad2_ net-_u10-pad2_ /b4 u23
a19 net-_u17-pad6_ net-_u20-pad2_ u20
a20 net-_u20-pad2_ net-_u10-pad2_ /b5 u24
a21 net-_u18-pad6_ net-_u21-pad2_ u21
a22 net-_u21-pad2_ net-_u10-pad2_ /b6 u25
a23 net-_u15-pad6_ net-_u22-pad2_ u22
a24 net-_u22-pad2_ net-_u10-pad2_ /b7 u26
a25 /oe_bar net-_u10-pad2_ u14
* Schematic Name:                             d_dff, NgSpice Name: d_dff
.model u2 d_dff(clk_delay=1.0e-9 set_delay=1.0e-9 reset_delay=1.0 ic=0 data_load=1.0e-12 clk_load=1.0e-12 set_load=1.0e-12 reset_load=1.0e-12 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             d_dff, NgSpice Name: d_dff
.model u3 d_dff(clk_delay=1.0e-9 set_delay=1.0e-9 reset_delay=1.0 ic=0 data_load=1.0e-12 clk_load=1.0e-12 set_load=1.0e-12 reset_load=1.0e-12 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             d_dff, NgSpice Name: d_dff
.model u16 d_dff(clk_delay=1.0e-9 set_delay=1.0e-9 reset_delay=1.0 ic=0 data_load=1.0e-12 clk_load=1.0e-12 set_load=1.0e-12 reset_load=1.0e-12 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             d_dff, NgSpice Name: d_dff
.model u17 d_dff(clk_delay=1.0e-9 set_delay=1.0e-9 reset_delay=1.0 ic=0 data_load=1.0e-12 clk_load=1.0e-12 set_load=1.0e-12 reset_load=1.0e-12 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             d_dff, NgSpice Name: d_dff
.model u4 d_dff(clk_delay=1.0e-9 set_delay=1.0e-9 reset_delay=1.0 ic=0 data_load=1.0e-12 clk_load=1.0e-12 set_load=1.0e-12 reset_load=1.0e-12 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             d_dff, NgSpice Name: d_dff
.model u5 d_dff(clk_delay=1.0e-9 set_delay=1.0e-9 reset_delay=1.0 ic=0 data_load=1.0e-12 clk_load=1.0e-12 set_load=1.0e-12 reset_load=1.0e-12 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             d_dff, NgSpice Name: d_dff
.model u18 d_dff(clk_delay=1.0e-9 set_delay=1.0e-9 reset_delay=1.0 ic=0 data_load=1.0e-12 clk_load=1.0e-12 set_load=1.0e-12 reset_load=1.0e-12 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             d_dff, NgSpice Name: d_dff
.model u15 d_dff(clk_delay=1.0e-9 set_delay=1.0e-9 reset_delay=1.0 ic=0 data_load=1.0e-12 clk_load=1.0e-12 set_load=1.0e-12 reset_load=1.0e-12 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u6 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_tristate, NgSpice Name: d_tristate
.model u10 d_tristate(delay=1.0e-9 input_load=1.0e-12 enable_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u7 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_tristate, NgSpice Name: d_tristate
.model u11 d_tristate(delay=1.0e-9 input_load=1.0e-12 enable_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u8 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_tristate, NgSpice Name: d_tristate
.model u12 d_tristate(delay=1.0e-9 input_load=1.0e-12 enable_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u9 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_tristate, NgSpice Name: d_tristate
.model u13 d_tristate(delay=1.0e-9 input_load=1.0e-12 enable_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u19 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_tristate, NgSpice Name: d_tristate
.model u23 d_tristate(delay=1.0e-9 input_load=1.0e-12 enable_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u20 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_tristate, NgSpice Name: d_tristate
.model u24 d_tristate(delay=1.0e-9 input_load=1.0e-12 enable_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u21 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_tristate, NgSpice Name: d_tristate
.model u25 d_tristate(delay=1.0e-9 input_load=1.0e-12 enable_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u22 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_tristate, NgSpice Name: d_tristate
.model u26 d_tristate(delay=1.0e-9 input_load=1.0e-12 enable_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u14 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
.tran 0e-00 0e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
.endc
.end
