* C:\FOSSEE\eSim\library\SubcircuitLibrary\74ACT11286\74ACT11286.cir

* EESchema Netlist Version 1.1 (Spice format) creation date: 06/15/24 21:23:24

* To exclude a component from the Spice Netlist add [Spice_Netlist_Enabled] user FIELD set to: N
* To reorder the component spice node sequence add [Spice_Node_Sequence] user FIELD and define sequence: 2,1,0

* Sheet Name: /
U17  Net-_U1-Pad1_ Net-_U1-Pad2_ Net-_U17-Pad3_ d_xnor		
U21  Net-_U1-Pad3_ Net-_U21-Pad2_ d_inverter		
U25  Net-_U17-Pad3_ Net-_U21-Pad2_ Net-_U25-Pad3_ d_xnor		
U18  Net-_U1-Pad4_ Net-_U1-Pad5_ Net-_U18-Pad3_ d_xnor		
U22  Net-_U1-Pad6_ Net-_U22-Pad2_ d_inverter		
U26  Net-_U18-Pad3_ Net-_U22-Pad2_ Net-_U26-Pad3_ d_xnor		
U19  Net-_U1-Pad7_ Net-_U1-Pad8_ Net-_U19-Pad3_ d_xnor		
U23  Net-_U1-Pad9_ Net-_U23-Pad2_ d_inverter		
U27  Net-_U19-Pad3_ Net-_U23-Pad2_ Net-_U27-Pad3_ d_xnor		
U29  Net-_U25-Pad3_ Net-_U26-Pad3_ Net-_U29-Pad3_ d_xnor		
U30  Net-_U27-Pad3_ Net-_U30-Pad2_ d_inverter		
U31  Net-_U29-Pad3_ Net-_U30-Pad2_ Net-_U24-Pad1_ d_xnor		
U32  Net-_U24-Pad1_ Net-_U32-Pad2_ d_inverter		
U33  Net-_U32-Pad2_ Net-_U28-Pad2_ Net-_U33-Pad3_ d_xnor		
U35  Net-_U33-Pad3_ Net-_U34-Pad2_ Net-_U1-Pad12_ d_nand		
U34  Net-_U20-Pad2_ Net-_U34-Pad2_ d_inverter		
U28  Net-_U1-Pad10_ Net-_U28-Pad2_ d_inverter		
U20  Net-_U1-Pad11_ Net-_U20-Pad2_ d_inverter		
U24  Net-_U24-Pad1_ Net-_U20-Pad2_ Net-_U16-Pad1_ d_tristate		
U16  Net-_U16-Pad1_ Net-_U1-Pad10_ d_inverter		
U1  Net-_U1-Pad1_ Net-_U1-Pad2_ Net-_U1-Pad3_ Net-_U1-Pad4_ Net-_U1-Pad5_ Net-_U1-Pad6_ Net-_U1-Pad7_ Net-_U1-Pad8_ Net-_U1-Pad9_ Net-_U1-Pad10_ Net-_U1-Pad11_ Net-_U1-Pad12_ PORT		

.end
